US07314888B1
In 6 ml of ethanol is dissolved 0.60 g of 3-{5-[1-(2,4-diisobutoxyphenyl)-3-ethoxy-3-oxo-1-propenyl]-2-isobutoxyphenyl}propanoic acid. After adding 0.12 g of 5% palladium-carbon, the mixture is stirred at ambient temperature for one hour in a stream of hydrogen. The reaction mixture is filtered with Celite, and the solvent is distilled off from the filtrate under a reduced pressure to obtain a crude product. The crude product is dissolved in 4 ml of ethanol, 0.7 ml of 5 mol/L sodium hydroxide is added, and the mixture thus obtained is stirred at ambient temperature for one hour. Chloroform and water are added to the reaction mixture, pH is adjusted to 2 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. Thus, 0.53 g of 3-[3-(2-carboxyethyl)-4-isobutoxyphenyl]-3-(2,4-diisobutoxyphenyl)propanoic acid is obtained as a white foaming product.

reactant | 3-{5-[1-(2,4-diisobutoxyphenyl)-3-ethoxy-3-oxo-1-propenyl]-2-isobutoxyphenyl}propanoic acid | 0.60 g | C(C(C)C)OC1=C(C=CC(=C1)OCC(C)C)C(=CC(=O)OCC)C=1C=CC(=C(C1)CCC(=O)O)OCC(C)C | C32H44O7
reactant | hydrogen | [H][H] | H2
reactant | sodium hydroxide | 5 mol/L, 0.7 ml | [OH-].[Na+]
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | ethanol | 4 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.12 g | [C].[Pd]
solvent | water | O | H2O
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-[3-(2-carboxyethyl)-4-isobutoxyphenyl]-3-(2,4-diisobutoxyphenyl)propanoic acid | 0.53 g | C(=O)(O)CCC=1C=C(C=CC1OCC(C)C)C(CC(=O)O)C1=C(C=C(C=C1)OCC(C)C)OCC(C)C | C30H42O7
